US06756359B2
Synthesis of 2-(1H-Imidazol-4-yl)-pyrazine
To a solution of 4-Iodo-1-trityl-1H-imidazole (1 eq) in THF at room temperature was added ethylmagnesium bromide (1.2 eq) under dry conditions. After stirring for 90 minutes, zinc chloride (1.2 eq) was added to the reaction mixture. After stirring for another 90 minutes, tetrakis(triphenylphosphine) palladium (10%) and 5-bromopyrazine (1.3 eq) were added to the reaction mixture. Subsequent reaction conditions and work up are as described previously in Example 73, the resulting solid 2-(1H-Imidazol-4-yl)-pyrazine (37%) was collected by filtration. MH+(147).

reactant | 4-Iodo-1-trityl-1H-imidazole | 1 eq | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | ethylmagnesium bromide | 1.2 eq | C(C)[Mg]Br
reactant | 5-bromopyrazine | 1.3 eq | BrC=1N=CC=NC1 | C4H3BrN2
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc chloride | 1.2 eq | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(1H-Imidazol-4-yl)-pyrazine | N1C=NC(=C1)C1=NC=CN=C1 | C7H6N4
